US07723363B2
Preparation of ter-butyl 2-(5-chloro-2-pyridinyl)propylcarbamate
To a solution of 5.2 g (0.031 mol) of 2-(5-chloro-2-pyridinyl)propanenitrile in 60 ml of methanol were rapidly added 8 g (0.034 mol) of colbalt(II) chloride hexahydrate and 13.5 g (0.062 mol) of di-ter-butyl dicarbonate. The dark solution was cooled to −5° C. and 8.2 g (0.217 mol) of sodium borohydride was added portion-wise at 0° C. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was neutralized by 100 ml of 1 N hydrochloric acid and methanol was remove under reduced pressure. The aqueous phase was reextracted by ethyl acetate (2×150 ml) and the organic phase was washed with brine and dried over magnesium sulphate.

reactant | 2-(5-chloro-2-pyridinyl)propanenitrile | 0.031 mol, 5.2 g | ClC=1C=CC(=NC1)C(C#N)C | C8H7ClN2
reactant | chloride hexahydrate | 0.034 mol, 8 g | O.O.O.O.O.O.[Cl-]
reactant | di-ter-butyl dicarbonate | 0.062 mol, 13.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium borohydride | 0.217 mol, 8.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | ter-butyl 2-(5-chloro-2-pyridinyl)propylcarbamate | ClC=1C=CC(=NC1)C(CNC(OC(C)(C)C)=O)C | C13H19ClN2O2
